US08614217B2
To a solution of 2-(6-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione (50 g, 125 mmol) in THF (350 mL) was added dropwise hydrazine hydrate (61 mL, 1.25 mol) at room temperature. After stirring overnight at room temperature, the reaction mixture was filtered and the filtrate was concentrated to dryness in vacuo. Purification of the residue on silica gel afforded 6-[(aminooxy)methyl]pyridin-2-amine as a colourless oil [10.0 g; 57% of theory; HPLC/MS: m/z=140 (M+H); log P(HCOOH)<−0.23].

reactant | 2-(6-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione | 125 mmol, 50 g | O=C1N(C(C2=CC=CC=C12)=O)OCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C22H13N3O5
reactant | hydrazine hydrate | 1.25 mol, 61 mL | O.NN
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 6-[(aminooxy)methyl]pyridin-2-amine | NOCC1=CC=CC(=N1)N | C6H9N3O
